US07625886B2
6c) (R)-1-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-ylmethyl)-2-[1′-(2-morpholin-4-yl-ethoxycarbonylmethyl)-4,4′-bipiperidinyl-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 90 mg (0.13 mmol) (R)-2-(1′-carboxymethyl-4,4′-bipiperidinyl-1-yl)-1-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate, 48 mg (0.15 mmol) TBTU and 26 μL (0.19 mmol) triethylamine in 1.4 mL DMF was stirred for 1 h at RT. Then 18 μL (0.15 mmol) 2-morpholin-4-yl-ethanol was added. The reaction mixture was stirred for 16 h at RT. 4 drops of formic acid were added, the mixture was filtered through a syringe filter and purified by HPLC. The fractions containing the product were combined, made alkaline with 5% NaHCO3 solution, extracted with 50 mL EtOAc and the organic phase was dried on Na2SO4. After the desiccant and solvent had been eliminated the residue was triturated with DIPE, suction filtered and dried.

reactant | (R)-2-(1′-carboxymethyl-4,4′-bipiperidinyl-1-yl)-1-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.13 mmol, 90 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)C1CCN(CC1)CC(=O)O)CC1=CC3=C(NC(O3)=O)C(=C1)C)C=CC=C2 | C38H48N6O8
reactant | TBTU | 0.15 mmol, 48 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 0.19 mmol, 26 μL | C(C)N(CC)CC | C6H15N
reactant | 2-morpholin-4-yl-ethanol | 0.15 mmol, 18 μL | N1(CCOCC1)CCO | C6H13NO2
solvent | DMF | 1.4 mL | CN(C)C=O | C3H7NO
catalyst | formic acid | 4 drops | C(=O)O | CH2O2
product | (R)-1-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-ylmethyl)-2-[1′-(2-morpholin-4-yl-ethoxycarbonylmethyl)-4,4′-bipiperidinyl-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)C1CCN(CC1)CC(=O)OCCN1CCOCC1)CC1=CC3=C(NC(O3)=O)C(=C1)C)C=CC=C2 | C44H59N7O9
